US04067720
23 g of ethoxycarbonyl isocyanate were added dropwise to a solution of 14.6 g of 3-hydroxy-5-ethoxy-1,2,4-thiadiazole in 140 ml of tetrahydrofuran containing 1 ml of triethylamine and the mixture was stirred for 11/2 hours at 20° C and was filtered. The filtrate was concentrated to dryness and the residue was empasted with isopropyl ether and vacuum filtered. The product was crystallized from ethyl acetate to obtain 18 g of 2-(N-ethoxycarbonylcarbamoyl)-5-ethoxy-1,2,4-thiadiazole-3-one melting at 119° C.

reactant | ethoxycarbonyl isocyanate | 23 g | C(C)OC(=O)N=C=O | C4H5NO3
reactant | 3-hydroxy-5-ethoxy-1,2,4-thiadiazole | 14.6 g | OC1=NSC(=N1)OCC | C4H6N2O2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | 2-(N-ethoxycarbonylcarbamoyl)-5-ethoxy-1,2,4-thiadiazole-3-one | 18 g | C(C)OC(=O)NC(=O)N1SC(=NC1=O)OCC | C8H11N3O5S
